### PR TITLE
[Merged by Bors] - feat(Topology/Order/LawsonTopology): Introduce the Lawson Topology to Mathlib

### PR DESCRIPTION
**Pull request by mans0954**
Introduces the Lawson Topology on a preorder.

The Lawson Topology is defined as the meet of the [Lower Topology](https://github.com/leanprover-community/mathlib/pull/17426) and the [Scott Topology](#2508) previously introduced.

A basis for the Lawson Topology is defined and some basic results are established:

- An upper set is Lawson open if and only if it is Scott open
- A lower set is Lawson closed if and only if it is closed under sups of directed sets
- The Lawson topology on a partial order is T₀ 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
I do have some time right now, but that won't last very long because my holidays end this week-end!

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 1]
```diff
@@ -0,0 +1,252 @@
...
+
+theorem isOpen_preimage_ofLawson (S : Set α) :
+    IsOpen (Topology.WithLawson.ofLawson ⁻¹' S) ↔
+      (lawson α).IsOpen S :=
+  Iff.rfl
+
+theorem isClosed_preimage_ofLawson (S : Set α) :
+    IsClosed (Topology.WithLawson.ofLawson ⁻¹' S) ↔
+      @IsClosed (WithLawson α) _ S :=
+  Iff.rfl
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/LawsonTopology.lean]: Possibly - I still don't have a good grasp of how to think about multiple topologies on the same space in Mathlib, so I'm happy to go with this if it's the better way of doing it.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/LawsonTopology.lean]: `@IsClosed (WithLawson α) _ S` is not well-typed. The way to fix it would be to replace `S` with `ofLawson ⁻¹' S`, in which case the statement becomes `IsClosed (ofLawson ⁻¹' S) ↔ IsClosed (ofLawson ⁻¹' S)`, namely a tautology.

[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/LawsonTopology.lean]: I only use `IsLawson.isClosed_preimage_ofLawson` in `singleton_isClosed`. `WithLawson.isClosed_preimage_ofLawson` doesn't seem to work there.

[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/LawsonTopology.lean]: This works:
```
lemma singleton_isClosed (a : α) : IsClosed ({a} : Set α) := by
  simp only [IsLawson.topology_eq]
  rw [← (Set.OrdConnected.upperClosure_inter_lowerClosure ordConnected_singleton),
    ← WithLawson.isClosed_preimage_ofLawson]
  apply IsClosed.inter
    (lawsonClosed_of_lowerClosed _ (IsLower.isClosed_upperClosure (finite_singleton a)))
  rw [ lowerClosure_singleton, LowerSet.coe_Iic, ← WithLawson.isClosed_preimage_ofLawson]
  apply lawsonClosed_of_scottClosed
  exact IsScott.isClosed_Iic
```
So we could get rid of `IsLawson.isClosed_preimage_ofLawson`?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/LawsonTopology.lean]: Sure yeah

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 2]
```diff
@@ -0,0 +1,243 @@
...
+/-!
+# Lawson topology
+
+This file introduces the Lawson topology on a preorder.
+
+## Main definitions
+
+- `Topology.lawson` - the Lawson topology is defined as the meet of `Topology.lower` and
+  `Topology.scott`.
+- `Topology.IsLawson.lawson_basis` - The complements of the upper closures of finite sets
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:19]:
```suggestion
- `Topology.IsLawson.lawsonBasis` - The complements of the upper closures of finite sets
```

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 3]
```diff
@@ -0,0 +1,243 @@
...
+  intersected with Scott open sets.
+
+## Main statements
+
+- `Topology.IsLawson.isTopologicalBasis` - `Topology.IsLawson.lawson_basis` is a basis for
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:24]:
```suggestion
- `Topology.IsLawson.isTopologicalBasis` - `Topology.IsLawson.lawsonBasis` is a basis for
```

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 4]
```diff
@@ -0,0 +1,243 @@
...
+We define a mixin class `Topology.IsLawson` for the class of types which are both a preorder and a
+topology and where the topology is `Topology.lawson`.
+It is shown that `Topology.WithLawson α` is an instance of `Topology.IsLawson`.
+
+## References
+
+* [Gierz et al, *A Compendium of Continuous Lattices*][GierzEtAl1980]
+
+## Tags
+Lawson topology, preorder
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:46]:
```suggestion

Lawson topology, preorder
```

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 5]
```diff
@@ -0,0 +1,243 @@
...
+
+namespace Topology
+
+/-! ### Lawson topology -/
+
+section Lawson
+section Preorder
+
+/--
+The Lawson topology is defined as the meet of `Topology.lower` and the `Topology.scott`.
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:63]: Not very grammatical

Comment (mans0954) [reply Mathlib/Topology/Order/LawsonTopology.lean:64]: I've changed it to "the Lawson topology is defined as the meet of the lower topology and the Scott topology."

**Comment by mans0954** [comment]
@YaelDillies did you have any further thoughts on this please?

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 6]
```diff
@@ -0,0 +1,243 @@
...
+class IsLawson : Prop where
+  topology_eq_lawson : ‹TopologicalSpace α› = lawson α
+
+end Preorder
+
+namespace IsLawson
+section Preorder
+variable (α) [Preorder α] [TopologicalSpace α] [IsLawson α]
+
+lemma topology_eq : ‹_› = lawson α := topology_eq_lawson
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:83]: Might as well directly use `topology_eq_lawson` everywhere
```suggestion
```

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 7]
```diff
@@ -0,0 +1,243 @@
...
+def withLawsonTopologyHomeomorph [TopologicalSpace α] [IsLawson α]  : WithLawson α ≃ₜ α :=
+  ofLawson.toHomeomorphOfInducing ⟨by erw [IsLawson.topology_eq α, induced_id]; rfl⟩
+
+theorem isOpen_preimage_ofLawson (S : Set α) :
+    IsOpen (ofLawson ⁻¹' S) ↔ (lawson α).IsOpen S := Iff.rfl
+
+theorem isClosed_preimage_ofLawson (S : Set α) :
+    IsClosed (ofLawson ⁻¹' S) ↔ IsClosed[lawson α] S := Iff.rfl
+
+theorem isOpen_def (T : Set (WithLawson α)) :
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:158]:
```suggestion
theorem isOpen_preimage_ofLawson {S : Set α} :
    IsOpen (ofLawson ⁻¹' S) ↔ (lawson α).IsOpen S := Iff.rfl

theorem isClosed_preimage_ofLawson {S : Set α} :
    IsClosed (ofLawson ⁻¹' S) ↔ IsClosed[lawson α] S := Iff.rfl

theorem isOpen_def {T : Set (WithLawson α)} :
```

File: Mathlib/Topology/Order/LawsonTopology.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/Topology/Order/LawsonTopology.lean:82]: Okay, but for some reason I don't understand I have to write `rw [@IsLawson.topology_eq_lawson α _ _ _]` rather than `rw [IsLawson.topology_eq_lawson α ]`.

File: Mathlib/Topology/Order/LawsonTopology.lean [hunk 8]
```diff
@@ -0,0 +1,240 @@
...
+
+* [Gierz et al, *A Compendium of Continuous Lattices*][GierzEtAl1980]
+
+## Tags
+
+Lawson topology, preorder
+-/
+
+open Set
+open scoped TopologicalSpace
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LawsonTopology.lean:51]:
```suggestion
open Set TopologicalSpace
```
Sorry, seems like you did actually need things in the `TopologicalSpace` namespace

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
